US05705188
In 5 ml of pyridine was dissolved 150 mg (0.25 mmol) of 1,3-O-dioleylglycerol followed by addition of 77 mg (0.40 mmol) of p-toluenesulfonyl chloride and the mixture was heated at 60° C. and stirred for 2 days. After completion of the reaction, the solvent was distilled off and the residue was diluted with water and extracted with ether. The extract was dried and concentrated to provide 150 mg (80%) of 1,3-O-dioleyl-2-O-(p-toluenesulfonyl)glycerol as yellow oil.

reactant | 1,3-O-dioleylglycerol | 0.25 mmol, 150 mg | C(CCCCCCC\C=C/CCCCCCCC)OCC(O)COCCCCCCCC\C=C/CCCCCCCC | C39H76O3
reactant | p-toluenesulfonyl chloride | 0.40 mmol, 77 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-O-dioleyl-2-O-(p-toluenesulfonyl)glycerol | 150 mg, 80% | C(CCCCCCC\C=C/CCCCCCCC)OCC(OS(=O)(=O)C1=CC=C(C=C1)C)COCCCCCCCC\C=C/CCCCCCCC | C46H82O5S
